US05442070
7.8 g of sodium carbonate are added to a solution of 10 g of 2-chloro-3-ethoxycarbonyl-6,7-difluoroquinoline, prepared as described in Application Example 1, and 9.7 g of N-ethyl-N-(b-ethoxycarbonylethyl)amine in 120 cm3 of toluene. The suspension obtained is heated to approximately 90° C. and then stirred for 4 hours at this temperature. The reaction mixture is then cooled to approximately 20° C. and thereafter washed with 3 times 100 cm3 of water. The organic phase is concentrated to dryness under reduced pressure (20 kPa) at approximately 50° C. 13 g of 3-ethoxycarbonyl-6,7-difluoro-2-[N-ethyl-N-(b-ethoxycarbonylethyl)amino]quinoline are obtained in the form of an oil, which is used without further purification for the subsequent steps.

reactant | sodium carbonate | 7.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloro-3-ethoxycarbonyl-6,7-difluoroquinoline | 10 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)OCC)F)F | C12H8ClF2NO2
reactant | N-ethyl-N-(b-ethoxycarbonylethyl)amine | 9.7 g | C(C)NCCC(=O)OCC | C7H15NO2
solvent | toluene | 120 cm3 | C1(=CC=CC=C1)C | C7H8
product | 3-ethoxycarbonyl-6,7-difluoro-2-[N-ethyl-N-(b-ethoxycarbonylethyl)amino]quinoline | 13 g | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1)F)F)N(CCC(=O)OCC)CC | C19H22F2N2O4
